US09227971B2
Step B—Synthesis of benzyl 1-(4-bromo-2-fluorophenyl)cyclopropylcarbamate
To a cooled solution of 1-(4-bromo-2-fluorophenyl)cyclopropanamine (2.16 mmol) in DCM (10 mL) at 0° C., was added DIEA (0.75 mL, 4.32 mmol) and benzyl chloroformate (0.37 mL, 2.59 mmol). The reaction mixture was warmed to it and stirred for 1 h until LC/MS analysis indicated the reaction was complete. The reaction was quenched with HCl (1N) and extracted with DCM. Drying over MgSO4, yielded crude product which was purified by flash chromatography (gradient EtOAc/Hexanes (0-50%). HPLC-MS tR=1.31 min (UV254 nm); mass calculated for formula C17H15BrFNO2 363.02, observed LCMS m/z 363.9 (M+H)

reactant | 1-(4-bromo-2-fluorophenyl)cyclopropanamine | 2.16 mmol | BrC1=CC(=C(C=C1)C1(CC1)N)F | C9H9BrFN
reactant | DIEA | 4.32 mmol, 0.75 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 2.59 mmol, 0.37 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | benzyl 1-(4-bromo-2-fluorophenyl)cyclopropylcarbamate | BrC1=CC(=C(C=C1)C1(CC1)NC(OCC1=CC=CC=C1)=O)F | C17H15BrFNO2
